Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
Coronary Arteriogram (___)

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  
Mr. ___ is a ___ male with PMH significant for permanent 
AF s/p PPM ___ for sick sinus disease, HFrEF (EF ___ with 
recent decrease in LV dysfunction, progressive AS now severe who 
presents with recurrent syncope.

He reports he was at the dinner table attempting to take some 
pills when he syncopized. Patient has no recollection of the 
event and he did have loss of bowel/bladder function at the 
time. There is no note made of any seizure-like activity. 
Evaluated early in the day by ___ and BP noted to be low, 
furosemide and lisinopril not given at the direction of ___. He 
has been hospitalized at ___ with a syncopal event this past 
___. Duration of LOC approximately 5 minutes.  Mostly 
ambulates around the house.  Breathing has been ok.  Denies any 
chest pain. Some increased lower extremity edema with recent 
dose titration of furosemide from 40mg to 60 mg by Dr. ___ 
primary cardiologist at ___.

He was transferred from ___. Labs from ___ were notable 
for WBC of 5.8, Na 133, Cr 1.1, elevated troponin, BNP 6158, INR 
2.1, CT head with no acute abnormality. Patient wanted a 
transfer for high level care for ___ evaluation. 

=============================
Past cardiac history reviewed:
- ___: PPM at ___ after syncopal event with sick sinus 
syndrome. Chronic atrial fibrillation.  
- ___ Echo: CHF- EF dropped from 38-35% down to 25%.  Aortic 
stenosis with gradients in the moderate to severe range. Echo 
___ with peak/mean pressure gradients ___ mmHg. Peak 
transvalvular velocity 3.5M/S.  AVI by continuity equation 1.2 
cm².  ___ is low 0.67 cm².  
- Dobutamine echo ___: with baseline left ventricular systolic 
function severely reduced, LVEF ___. Dobutamine beginning at 
5 mcg/kg/min to peak at 15 mcg/kg/min.  To stop due to achieved 
aortic peak velocity > ___ and mean aortic gradient > 40 mmHg.  
Peak gradient 73 mmHg with mean gradient 48 mmHg.  ___ 0.6 cm². 
PA systolic pressure was 29 mmHg.
==============================

In the ED: Pacemaker evaluated by EP. Function normal with 
acceptable lead management and battery status. No arrhythmia 
events noted corresponding to syncopal episode.
Initial VS:
Temp Pulse RR    BP    O2 sat O2 flow Pain
97   82    18  119/66    95%     RA
              MAP: 83.7
Exam: A&Ox4, no resp distress, skin warm and normal color. No 
abd tenderness. lung sounds clear. HR regular and strong.

EKG: Ventricular-paced rhythm

ED labs notable for: 
Hgb 8.9 MCV 103, RDW 55.7, WBC 5.4, Plt 170
INR 1.8*
Na 133, K 4.6, Cr 1.1, BUN 31
TropT <0.01

Studies notable for: no imaging done in ED.

Consults: EP for pacemaker interrogation

Patient was given furosemide 20mg PO.

Vitals on transfer: T 97.5 BP 128 / 77 L Lying HR 67 RR 18 SpO2
98% RA  

On the floor patient reiterated the above history. Both of his 
recent syncopal episodes occurred during times of exertion. Also 
endorses episodes of presyncope. Wife, ___, at the bedside
confirmed history and reiterated hope for TAVR evaluation. Home
lasix was increased to 60mg PO on day of restaurant syncopal
episode last ___.

REVIEW OF SYSTEMS:  
Positive per HPI.  
Cardiac review of systems is notable for absence of chest pain,
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea,
ankle edema, palpitations. Other review of systems positive for
ankle pains and back pain. 

On further review of systems, denies fevers or chills. Denies 
any
prior history of deep venous thrombosis, pulmonary embolism,
bleeding at the time of surgery, cough, hemoptysis, black stools
or red stools. Denies exertional buttock or calf pain. All of 
the
other review of systems were negative.  

 
Past Medical History:
CARDIAC HISTORY:
Vascular disease
TIA ___ when off warfarin for cataract surgery) 
Moderate-severe aortic stenosis 
Permanent atrial fibrillation 
Acute on chronic combined systolic and diastolic congestive 
heart
failure 

OTHER MEDICAL HISTORY: 
History of stroke 
Osteoarthrosis
Squamous cell carcinoma of nose, scalp/neck   
DJD (degenerative joint disease) of hip 
S/P total hip arthroplasty 
B12 deficiency 
Vascular disease 
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, 
syncope or sudden cardiac death. All other family history 
non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
============================
VS: T BP HR RR O2 SAT
T 97.5 BP 128 / 77 L Lying HR 67 RR 18 SpO2 98% RA  
GENERAL: Well developed, well nourished elderly male in NAD. 
Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic, old-appearing superior scalp scar present. 
Sclera anicteric. PERRL. EOMI. Conjunctiva were pink. No pallor 
or cyanosis of the oral mucosa. No xanthelasma.  
NECK: JVP not elevated.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Regular rate and rhythm. Normal S1, S2. Blowing III/VI 
systolic murmur best heard at RUSB radiating to the neck. No 
bruits.
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis. Trace, 
dependent peripheral edema b/l feet.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses 1+, palpable, and symmetric.
NEURO: CN II-XII grossly intact, ___ strength. Sensation grossly 
intact bilaterally.

DISCHARGE PHYSICAL EXAM
============================
24 HR Data (last updated ___ @ 249)
 Temp: 97.4 (Tm 98.4), BP: 125/80 (92-125/54-80), HR: 66
(60-72), RR: 18, O2 sat: 100% (97-100), O2 delivery: Ra       
GENERAL: Well developed, well nourished elderly male in NAD. 
affect appropriate.  
HEENT: Normocephalic, old-appearing superior scalp scar present. 
Sclera anicteric. PERRL. EOMI. Conjunctiva were pink. No pallor 
or cyanosis of the oral mucosa. No xanthelasma.  
NECK: JVP not elevated.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Regular rate and rhythm. Normal S1, S2. Blowing III/VI 
systolic murmur best heard at RUSB radiating to the neck. No 
bruits.
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. faint crackles at left 
base, wheezes or rhonchi.   
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis.   
SKIN: venous stasis changes b/l.  
PULSES: Distal pulses 1+, palpable, and symmetric.

 
Pertinent Results:
ADMISSION LABS
=========================
___ 04:50AM BLOOD WBC-5.4 RBC-2.66* Hgb-8.9* Hct-27.4* 
MCV-103* MCH-33.5* MCHC-32.5 RDW-14.8 RDWSD-55.7* Plt ___
___ 04:50AM BLOOD Neuts-52.2 ___ Monos-8.6 Eos-1.3 
Baso-0.7 Im ___ AbsNeut-2.79 AbsLymp-1.97 AbsMono-0.46 
AbsEos-0.07 AbsBaso-0.04
___ 04:50AM BLOOD Plt ___
___ 04:50AM BLOOD ___ PTT-32.7 ___
___ 04:50AM BLOOD Glucose-104* UreaN-31* Creat-1.1 Na-133* 
K-4.6 Cl-97 HCO3-23 AnGap-13
___ 06:05AM BLOOD Calcium-9.3 Phos-3.5 Mg-2.0 Iron-59
___ 06:05AM BLOOD calTIBC-255* VitB12-543 Folate-7 
Ferritn-129 TRF-196*
___ 04:50AM BLOOD cTropnT-<0.01

PERTINENT LABS
=========================

DISCHARGE LABS
=========================
___ 05:34AM BLOOD WBC-4.6 RBC-2.49* Hgb-8.2* Hct-26.1* 
MCV-105* MCH-32.9* MCHC-31.4* RDW-15.0 RDWSD-57.6* Plt ___
___ 04:30PM BLOOD ___
___ 04:00PM BLOOD Glucose-105* UreaN-21* Creat-1.1 Na-134* 
K-4.5 Cl-101 HCO3-25 AnGap-8*
___ 04:00PM BLOOD Calcium-9.2 Phos-2.8 Mg-1.9

STUDIES
=========================
Carotid Study ___
IMPRESSION:  
Right ICA <40%  stenosis. 
Left ICA <40%  stenosis. 

Coronary Angiogram ___
Single vessel coronary artery disease. Moderate severity. Await 
structural heart team input but may be best treated medically.

MICROBIOLOGY
=========================
none

 
Brief Hospital Course:
======================= 
BRIEF SUMMARY STATEMENT 
=======================
Mr. ___ is a ___ man with ___ significant for chronic AF 
on warfarin, PPM placed ___ for sick sinus disease, HFrEF (EF 
15%) with recent decrease in LV dysfunction, progressive AS now 
severe who presented with a syncopal event etiology felt to be 
multifactorial, given his change in medication regimen as well 
as progressive AS noted on echo. Patient underwent expedited 
TAVR work-up and will follow-up with structural team as an 
outpatient for his procedure.

CORONARIES: Ostium 40% stenosis, pLAD 60%, mRCA 30%
PUMP: EF ___
RHYTHM: Chronic atrial fibrillation s/p PPM

=============== 
ACTIVE ISSUES: 
=============== 
#Syncope
#Moderate-to-severe aortic stenosis
He reports he was sitting at the dinner table attempting to take 
some
pills when he syncopized. Patient has no recollection of the
event and he did not have loss of bowel/bladder function at the 
time.
There is no note made of any seizure-like activity. Notably, he 
was evaluated earlier in the day by ___ and BP noted to be low, 
furosemide and lisinopril not given at the direction of ___. He 
has also been hospitalized at ___ with a syncopal event a week 
prior to this presentation.

Differential included progressive, symptomatic aortic stenosis 
vs hypotension in setting of increased lasix and lisinopril use. 
His pacemaker was interrogated and revealed no obvious 
precipitating arrhythmias at time of syncope. He remained 
asymptomatic throughout his stay with no signs of volume 
overload. Orthostatics were negative and carotid studies showed 
no prominent stenosis. He underwent coronary angiogram on ___ 
with only moderate narrowing of mid LAD and was not intervened 
upon. He will follow-up with the structural heart team for 
outpatient TAVR. Lisinopril was restarted prior to discharge but 
continue to hold furosemide as below.

#Heart Failure with reduced ejection fraction (EF ___
Mr. ___ has HFrEF with EF of ___ per TTE on ___. 
This could be explained by worsening aortic stenosis. His Lasix 
was held as he was not deemed to be overloaded on exam. He 
remained on lisinopril for afterload reduction and his blood 
pressures were stable in 100-110s. He is being discharged on 
home Lisinopril. His home Lasix is being held upon discharge.

#Permanent atrial fibrillation
He has a pacemaker placed in ___. His warfarin was held iso 
cardiac catheterization on ___ and he was put on heparin gtt. 
He was restarted on warfarin on the evening post-cath on ___. 
INR was 1.3 on the day of discharge. He was discharged on 5 mg 
daily with plan to follow-up with ___ clinic on ___ 
___.

#Macrocytic anemia - unclear etiology
He had macrocytic anemia, Hgb 8.8 MCV 103, upon admission. B12, 
folate, and ferritin WNL. TIBC and transferrin were only 
slightly low. No obvious source of bleeding on this admission. 
Discharge Hgb was 8.2.

TRANSITIONAL ISSUES 
==================== 
DISCHARGE WEIGHT: 78.84kg
DISCHARGE Cr/BUN: ___
DISCHARGE DIURETIC: holding Lasix 40mg PO daily
MEDICATION CHANGES: 
- NEW: None
- STOPPED: Lasix 40mg PO daily
- CHANGED: None 

FOR CARDIOLOGY:
[] Please consider restarting furosemide if he appears volume 
overloaded
[] Follow-up INR and warfarin dosing. He was discharged on 
warfarin 5 mg daily follow-up at the ___ on ___. 
Discharge INR was 1.3. Spoke with ___ who is aware 
of his discharge.
[] As per the TAVR work-up he had an CTA abdomen and pelvis 
which was pending on discharge

FOR PCP:
[] Please f/u macrocytic anemia 
[] Loss of height of the L4 vertebral body, with soft tissue 
encompassing much of the vertebral body. A lumbar spine MRI with 
and without contrast is recommended for further evaluation. 
[] Please consider repeat BMP within a week. Sodium was 134 on 
discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 2.5 mg PO DAILY 
2. Furosemide 40 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. tacrolimus 0.1 % topical DAILY:PRN 
5. Warfarin 4 mg PO 3X/WEEK (___) 
6. Warfarin 3.5 mg PO 3X/WEEK (___) 
7. Atorvastatin 80 mg PO QPM 
8. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Warfarin 5 mg PO DAILY16  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Lisinopril 2.5 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  
6.  Tacrolimus 0.1 % topical DAILY:PRN in both eyes as needed  
7. HELD- Furosemide 40 mg PO DAILY  This medication was held. Do 
not restart Furosemide until your doctors ___ to restart

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Syncope 

SECONDARY DIAGNOSIS
Aortic Stenosis
Heart Failure with reduced ejection fraction
Atrial Fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you here at ___.

WHY WAS I IN THE HOSPITAL?
- You came to the hospital because you had a couple episodes of 
fainting.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- While you were here, we ran tests to assess why you have been 
having these fainting episodes. 
- We believed your heart valve had something to do with it, and 
you were worked up for getting a replacement valve.
- Your change in Lasix dosing could also have played a role in 
your fainting. We did not give you that medication while you 
were here.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
- When you leave you will have follow-up appointments. It is 
important for you to attend these. One of these appointments 
will be to check your INR level. This will help decide the 
dosing of your Warfarin. 
- Additionally, you will have some more tests scheduled for your 
eventual valve replacement surgery. 
- If you have another fainting episode, or feelings like you 
might pass out, please reach out to your cardiologist or pcp. 
- We are not sending you home on your Lasix medication. If you 
feel like you are gaining weight or becoming increasingly short 
of breath, please reach out to your medical providers for 
guidance in re-starting your Lasix.

We wish you the best!  
Your ___ Care Team  

 
Followup Instructions:
___